US07442701B2
Description 63: 5-[2-Fluoro-4-trifluoromethylphenyl]pyridazin-3(2H)-one
A mixture of 5-chloropyridazin-3(2H)-one (1.91 g, 14.6 mmol), bis(pinacolato)diboron (3.89 g, 15.3 mmol), potassium acetate (2.14 g, 21.8 mmol), dioxane (100 ml) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (0.4 g) was degassed (N2), then heated at 90° C. for 16 hours under nitrogen. More catalyst (0.45 g) was added and the mixture heated 7 hours more. After cooling to room temperature 4-bromo-3-fluorobenzotrifluoride (4.5 g, 18.5 mmol) was added along with 2M aqueous sodium carbonate solution (35 ml) and a further portion of catalyst (450 mg). The mixture was heated to 115° C. for 24 h, then cooled to room temperature, diluted with ethyl acetate (250 ml) and filtered. The layers were separated, the aqueous phase extracted with ethyl acetate (100 ml) and the combined organic layers evaporated. The residue was purified by flash column chromatography eluting with 5% methanol in dichloromethane to give the title compound (795 mg, 21%).

reactant | 5-chloropyridazin-3(2H)-one | 14.6 mmol, 1.91 g | ClC1=CC(NN=C1)=O | C4H3ClN2O
reactant | bis(pinacolato)diboron | 15.3 mmol, 3.89 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21.8 mmol, 2.14 g | C(C)(=O)[O-].[K+]
reactant | 4-bromo-3-fluorobenzotrifluoride | 18.5 mmol, 4.5 g | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | sodium carbonate | 2M, 35 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium | 0.4 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-[2-Fluoro-4-trifluoromethylphenyl]pyridazin-3(2H)-one | 795 mg, 21% | FC1=C(C=CC(=C1)C(F)(F)F)C1=CC(NN=C1)=O | C11H6F4N2O
